Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfonamides / Morphine
 
Attending: ___.
 
Chief Complaint:
Black stools
 
Major Surgical or Invasive Procedure:
EGD
 
History of Present Illness:
Mr. ___ is an ___ yo man with h/o afib on coumadin, colonic 
AVMs and diverticuli, now p/w black stools at home x ___ days. 
Reports feeling slightly dizzy at times, but no SOB or CP. No 
abdominal pain, BRBPR, hematuria, or nausea/vomiting. Is 
chronically weak/unsteady on feet ___ spinal stenosis, but no 
new syncope or falls. He stopped taking his iron pills when the 
black stools started, since this has happeneded before and 
resolved upon cessation of iron. However, when black stools 
persisted, he presented to the ED.  

In ED, VS: 98.4 89 134/68 16 99%RA. Never tachy, HD stable in 
ED. Exam significant for dark brown guaiac positive stool, no 
melena, and benign abdomen (old ventral hernia). Labs revealed 
HCT 27, slightly below baseline of 30. INR therapeutic at 2.8. 
GI was consulted and recommended re-scoping. 2 large bore PIVs 
were established, he received no meds or IVF and was admitted 
for further workup.  

Currently, he feels well and has no complaints.  

 
Past Medical History:
PMH:  
# CAD s/p CABG times two with sternal ostia as a complication.  
# PPM  
# ___ with ___ Body Dementia c/b Visual Hallucinations. 
 
# iron deficiency anemia  
# spinal stenosis  
# macular degenration  
.  
PSurgHx:  
# Femur fracture s/p ___  
# R TKR in ___  
# L TKR in ___ (c/b post-op confusion and AF-RVR)  
# L hip repair ___  
# Right inguinal hernia repair  
# Pilonidal cyst I&D.  
 
Social History:
___
Family History:
Noncontributory. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 98.9 128/62 67 16 97%RA 76.8kg  
General: pleasant elderly male in NAD  
HEENT: + pallor. PERRL, no scleral icterus noted.  
Neck: supple, no carotid bruits  
Pulmonary: Lungs CTA bilaterally  
Cardiac: Irregularly irregular, S1, S2, ___ HSM heard best at 
apex.  
Abdomen: supraumbilical ventral hernia, not incarcerated. soft, 
NT/ND, normoactive bowel sounds, no masses or organomegaly 
noted.  
Extremities: No C/C/E bilaterally, 2+ distal pulses  
neuro: A+O x 3 CN II-XII intact, moves all extremities equally  

 
Pertinent Results:
ADMISSION LABS:
___ 08:15PM BLOOD WBC-6.3 RBC-3.17* Hgb-9.0* Hct-27.3* 
MCV-86 MCH-28.3 MCHC-32.8 RDW-15.9* Plt ___
___ 08:15PM BLOOD ___ PTT-37.1* ___
___ 08:15PM BLOOD Glucose-116* UreaN-30* Creat-1.2 Na-142 
K-4.1 Cl-105 HCO3-27 AnGap-14
___ 08:15PM BLOOD Calcium-9.2 Phos-3.8 Mg-2.0
___ 12:44PM BLOOD tTG-IgA-8
___ 06:35AM BLOOD ___
.
  COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct 
___ 06:47AM          27.3*           
___ 06:45AM    5.9 3.11* 8.6* 27.0* 87 27.6 31.8 16.3* 
167 
___ 07:05AM          27.6*           
___:30AM          26.5*           
___ 07:00AM    8.0 3.13* 9.0* 27.3* 87 28.6 32.9 16.0* 
141* 
___ 06:55AM    11.0# 3.14* 8.7* 27.3* 87 27.8 32.0 15.8* 
158 
___ 05:32PM          27.4*           
___ 06:45AM    7.0 3.27* 9.2* 28.6* 88 28.1 32.1 15.8* 
143* 
___ 12:44PM    6.2 3.09* 8.6* 27.0* 87 27.7 31.7 15.6* 
134* 
___ 12:55PM    6.0 3.12* 8.6* 27.0* 87 27.6 31.9 15.9* 
142* 
___ 06:35AM    5.8 3.05* 8.6* 26.3* 86 28.3 32.7 15.9* 
147* 
___ 08:15PM    6.3 3.17* 9.0* 27.3* 86 28.3 32.8 15.9* 
152 
.
Colonscopy ___ -Diverticulosis of the sigmoid colon and 
descending colon  
Angioectasias in the cecum (thermal therapy)  
Polyps in the proximal ascending colon and hepatic flexure 
(polypectomy)  
Otherwise normal colonoscopy to cecum  
___ EGD: normal  
.
___ EGD - Impression: Duodenum second and third portion 
junction revealed large AVM with central ulceration 
___ Electrocautery was applied for hemostasis successfully in 
the AVM located within the junction of second/third part of the 
duodenum 
Otherwise normal small bowel enteroscopy up to level  proximal 
jejunum

 
Brief Hospital Course:
MEL___, GIB:
Mr. ___ is a ___ yo male with Afib on coumadin and history of 
colonic AVM's and diverticulosis, who presented with black tarry 
stools.  He has had black stools in the past in the setting of 
iron supplementation.  He usually notices that his black stools 
resolve with discontinuation of his iron, although this week his 
stools remained black when he held his iron.  His baseline 
hematocrit is in the low 30's but was 27.3 on admission.  He 
denied NSAID use, dyspepsia, GI upset and recent emesis.
.
On admission, coumadin was held to allow INR to reverse 
coagulopathy for endoscopy and he was given a total of 7.5 mg of 
PO vitamin K. Iron was also held, per GI recommendations. He was 
placed on IV omeprazole. Patient had an EGD on ___ which 
demonstrated an AVM with stigmata of a recent bleed. GI was able 
to apply thermal therapy, however patient decompensated during 
the procedure. He went into A Fib with AVR and his O2 sat 
decreased to the low ___, perhaps ___ aspiration. The procedure 
was stopped and GI was unable to clip the AVM.  Patient was 
observed in the GI suite and evaluated by the MICU. He returned 
to the floor with stable oxygenation. It was decided EGD would 
be repeated with MAC on ___. Patient could not be discharged 
for outpatient MAC EGD because it was felt his stroke risk was 
too high without coagulation for A Fib. Conversely, with 
coagulation his risk of severe upper GI bleed was too high. It 
was decided patient would stay inpatient (off coagulation) until 
the procedure after a discussion with his PCP, ___, and 
family. EGD ___ demonstrated a large AVM with central 
ulceration in the junction of the ___ parts of the duodenum, 
which was cauterized with succesful hemostasis. He will be 
continued indefinitely on twice daily omeprazole until he is 
seen in GI clinic in 4 weeks. Coumadin will be restarted at the 
usual dose on the evening of discharge, and he will be seen by 
home ___ 2 days after discharge for a check of hematocrit and 
INR. He remained hemodynamically stable, with a stable 
hematocrit throughout the admission. He received 1 unit PRBC 
during the hospitalization. He tolerated a regular diet prior to 
discharge. 
.
# Afib: Warfarin held during hospital stay in setting of upper 
GI bleed awaiting EGD. Warfarin will be re-started on ___ 
for therapeutic goal of INR ___, with a follow-up INR to be 
checked 2 days after discharge. Continued rate control with 
digoxin.  
.
# CAD s/p CABG: Statin and ISMN during hospital stay. Not on ASA 
due to allergy. Primary care provider could consider starting 
patient on B-blocker.   
.
# Spinal stenosis: controlled with tylenol prn during admission
.
# Depression: continued outpatient setraline. 
  
 
Medications on Admission:
digoxin 0.125 mg daily
warfarin 4 mg daily
Protonix 40 mg daily
furosemide 20 mg daily
sertraline 100 mg daily
isosorbide 30 mg daily
pravastatin 20 mg daily
allopurinol ___ daily
iron
MVI 

 
Discharge Medications:
1. Pravastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
5. Sertraline 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
8. Warfarin 4 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
Upper gastrointestinal bleed 

Secondary: 
Atrial fibrillation 

 
Discharge Condition:
Good

 
Discharge Instructions:
You were admitted for GI bleeding. The endoscopy on ___ 
showed a bleeding blood vessel in the small intestine, which was 
treated during the procedure. 

Your coumadin (blood thinner) was held during your admission due 
to concerns for bleeding. Please resume taking coumadin at the 
usual dose (4 mg by mouth once daily). Please have blood drawn 
on ___ for hematocrit and INR. Please arrange to 
have the results sent to Dr. ___ via fax at 
___

Please start taking omeprazole 20 mg by mouth TWICE daily. 
Please continue taking all of your other medications at the 
usual dosages. Please avoid taking non-steroidal 
anti-inflammatory medications such as advil, motrin, or aleve.
.
Please attend all follow up appointments.
.
Please return to the Emergency Department if you experience 
bloody stools, dark stools, lightheadedness, abdominal pain, 
vomiting, shortness of breath or chest pain.  
 
Followup Instructions:
___